US04232035
Preparation of 4-[[O-[N-Methyl-N-(methylthiosulfenyl)carbamoyl]oximino]]-5-methyl-1,3-oxathiolane.
To a solution of 4.22 g (0.032 m) of 5-methyl-4-oximino-1,3-oxathiolane and 5.0 g (0.032 m) of N-methyl-N-(methylthiosulfenyl) carbamoyl fluoride in 25 ml of dioxane was added 3.25 g (0.032 m) of triethylamine. After stirring at room temperature for 19 hrs. the reaction mixture was quenched with 100 ml of water and extracted in ethyl acetate. After the usual work-up it yielded a residual oil. Addition of isopropyl ether resulted in the precipitation of 0.16 g of a solid biscarbamate. The concentrated filtrate was purified by column chromatography to yield 2.97 g of an oil.

reactant | 5-methyl-4-oximino-1,3-oxathiolane | 4.22 g | CC1C(SCO1)=NO | C4H7NO2S
reactant | N-methyl-N-(methylthiosulfenyl) carbamoyl fluoride | 5.0 g | CN(C(=O)F)SSC | C3H6FNOS2
reactant | triethylamine | 3.25 g | C(C)N(CC)CC | C6H15N
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 4-[[O-[N-Methyl-N-(methylthiosulfenyl)carbamoyl]oximino]]-5-methyl-1,3-oxathiolane | 0.16 g | CN(C(=O)ON=C1SCOC1C)SSC | C7H12N2O3S3
